US04751223
N-[[7-Formyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine-6-yl]methyl]-formamide
Acetic anhydride (8.0 ml) and formic acid (9.12 ml) were mixed together and stirred at -10° C. (methanol/ice) for 1 hour. This solution now containing formic-acetic acid mixed anhydride was added to a solution of 1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-methanamine (10.0 g) in chloroform (250 ml) at 0° C. in one portion. The mixture was handshaken for 20 minutes. The final solution was treated with excess methanol and concentrated to an oil. Purification was conducted by flash chromatography on silica gel (170 g, eluted with 2 liters of dichloromethane and 2 liters of 2% methanol/dichloromethane). Fractions containing the pure product were pooled and concentrated to a solid, (11.17 g). Recrystallization from hot ethanol (370 ml) gave 9.51 g of crystals, m.p. 201°-202° C.

reactant | Acetic anhydride | 8.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 9.12 ml | C(=O)O | CH2O2
reactant | 1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine-6-methanamine | 10.0 g | C1CC2=CC=CC=3C(NC4=C(N1C32)C=CC=C4)CN | C16H17N3
reactant | methanol | CO | CH4O
solvent | chloroform | 250 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[[7-Formyl-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]-benzodiazepine-6-yl]methyl]-formamide | 9.51 g | C(=O)N1C2=C(N3C4=C(C1CNC=O)C=CC=C4CC3)C=CC=C2 | C18H17N3O2
